US07723378B2
To a cooled (−78° C.) solution of 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.00 g, 9.51 mmol) in THF (40 mL), tert.-butyllithium (15.8 mL, 1.5 M in pentane) is added. The mixture is stirred at −30° C. for 30 min and cooled again to −78° C. before DMF (2 mL, 27.4 mmol) is added. Stirring is continued for 5 min. The reaction mixture is poured onto 10% aq. citric acid solution and extracted twice with EA. The combined organic extracts are washed with brine, dried over Na2SO4 and evaporated go give crude 3-formyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.30 g) as a brownish foam, LC-MS: tR=0.92 min, [M+1+CH3CN]=280.22; 1H NMR (CDCl3): δ 10.06 (s, 1H), 4.02 (s br, 1H), 3.06 (t, J=6.7 Hz, 2H), 2.84 (s, 2H), 1.63 (t, J=6.7 Hz, 2H), 1.03 (s, 6H).

reactant | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 9.51 mmol, 2.00 g | CC1(CC=2C(=C(SC2)C(=O)O)CC1)C | C11H14O2S
reactant | DMF | 27.4 mmol, 2 mL | CN(C)C=O | C3H7NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | tert.-butyllithium | 1.5 M, 15.8 mL | C(C)(C)(C)[Li]
product | 3-formyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 2.30 g | C(=O)C1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C12H14O3S
